* source DC TO DC CONVETER
X_U1         INPUT OUTPUT OUTPUT N16775659 LM1084_ADJ_TRANS
R_R1         N16775659 OUTPUT  121 TC=0,0 
R_R2         0 N16775659  5k TC=0,0 
C_C1         0 OUTPUT  10u  TC=0,0 
C_C2         0 INPUT  10u  TC=0,0 
V_V1         INPUT 0 18Vdc
